US07531532B2
1-[4-(4-Amino-3-chlorophenoxy)pyridin-2-yl]-3-(3-diethylaminopropyl)urea
4-(4-Amino-3-chlorophenoxy)pyridin-2-ylamine (750 mg, 3.18 mmol) was dissolved in tetrahydrofuran (30 ml), and then triethylamine (0.444 ml, 4.77 mmol) was added thereto. Phenyl chloroformate (0.399 ml, 4.77 mmol) was added dropwise thereto while ice-cooling, followed by stirring at room temperature for 5 hrs. Triethylamine (0.222 ml) and phenyl chloroformate (0.200 ml) were further added thereto, followed by stirring for 40 min. Triethylamine (0.111 ml) and phenyl chloroformate (0.100 ml) were further added thereto, followed by stirring for 30 min. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (10 ml) and 3-(diethylamino)propylamine (2.49 ml, 15.9 mmol) were added, followed by stirring at room temperature for 3 hrs. To the reaction mixture were added ethyl acetate (50 ml) and water (20 ml), and further added a saturated aqueous solution of sodium hydrogencarbonate to partition. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then dried in vacuum to provide the titled compound (645 mg, 1.65 mmol, 51.8%) as a pale yellow solid.

reactant | 4-(4-Amino-3-chlorophenoxy)pyridin-2-ylamine | 3.18 mmol, 750 mg | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)Cl | C11H10ClN3O
reactant | Phenyl chloroformate | 4.77 mmol, 0.399 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 0.200 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 0.100 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-(diethylamino)propylamine | 15.9 mmol, 2.49 ml | C(C)N(CCCN)CC | C7H18N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Triethylamine | 0.111 ml | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 0.222 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 4.77 mmol, 0.444 ml | C(C)N(CC)CC | C6H15N
product | 1-[4-(4-Amino-3-chlorophenoxy)pyridin-2-yl]-3-(3-diethylaminopropyl)urea | 1.65 mmol, 645 mg, 51.8% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)NCCCN(CC)CC)C=C1)Cl | C19H26ClN5O2
